US04281000
3-Bromo-7-(3-furyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.01 mole of 3-dimethylamino-1-(3-furyl)-2-propen-1-one and 0.01 mole of 3-amino-4-bromopyrazole in glacial acetic acid is heated at reflux temperature for 6 hours. The solvent is removed to give the product of the example.

reactant | 3-dimethylamino-1-(3-furyl)-2-propen-1-one | 0.01 mole | CN(C=CC(=O)C1=COC=C1)C | C9H11NO2
reactant | 3-amino-4-bromopyrazole | 0.01 mole | NC1=NNC=C1Br | C3H4BrN3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Bromo-7-(3-furyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C2=COC=C2 | C10H6BrN3O
